US04075221
In the manner given in Example 1, a solution of 8-bromo-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetramethyldiaminomethane and acetyl chloride (in 0.1 molar excess compared to the N,N,N',N'-tetramethyldiaminomethane), are reacted together to give 8-bromo-1-[2-(dimethylamino)ethyl]- 6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-bromo-1-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=NC=CC=C3)C1 | C16H12BrN5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N,N',N'-tetramethyldiaminomethane | CN(C)CN(C)C | C5H14N2
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 8-bromo-1-[2-(dimethylamino)ethyl]- 6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN(C)C)C3=NC=CC=C3)C1 | C19H19BrN6
